US07635715B2
Step A: Preparation of 3-(4-Chlorophenyl)-tetrahydrofuran-3-carbonitrile
To a solution of the NaH (60% by weight, 4 g, 98 mmol) and 1-methylpyrrolidin-2-one (82.5 mL) at −20° C., was added dropwise a mixture of 2-(4-chlorophenyl)acetonitrile (5 g, 33 mmol) and 2-chloroethyl chloromethyl ether (4 mL, 33 mmol) in diethyl ether (16.5 mL, 33 mmol). The mixture was allowed to warm to room temperature over 24 hours. The reaction was then slowly quenched with ice water and extracted with ether (3×). The organic layers were combined, washed with H2O (3×) and brine, dried over Na2SO4, concentrated in vacuo, and purified by silica flash chromatography (13% EtOAc/hexane) to give the desired compound as a yellow oil. MS m/e=208.0 (M+H)+.

reactant | NaH | 98 mmol, 4 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)acetonitrile | 33 mmol, 5 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | 2-chloroethyl chloromethyl ether | 33 mmol, 4 mL | ClCOCCCl | C3H6Cl2O
reactant | diethyl ether | 33 mmol, 16.5 mL | C(C)OCC | C4H10O
solvent | 1-methylpyrrolidin-2-one | 82.5 mL | CN1C(CCC1)=O | C5H9NO
product | 3-(4-Chlorophenyl)-tetrahydrofuran-3-carbonitrile | ClC1=CC=C(C=C1)C1(COCC1)C#N | C11H10ClNO
